US07947706B2
92.3 mg of brown powdered 3-{4-[3-(4-trifluoromethoxyphenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide are prepared as described in Example 7 starting with 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide and 4-trifluoromethoxyphenyl isocyanate.

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N | C14H12N4O
reactant | 4-trifluoromethoxyphenyl isocyanate | FC(OC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO2
product | 3-{4-[3-(4-trifluoromethoxyphenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | 92.3 mg | FC(OC1=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N)=O)(F)F | C22H16F3N5O3
